US05599832
Preparation of 6-Chloroindole
A mixture of 4-chloro-2-nitrotoluene (34 g, 0.2 mole), dimethylformamide dimethyl acetal (28 mL, 0.2 mole) and pyrrolidine (25 mL 0.3 mole) in dimethylformamide (DMF) is heated at 100° C. for 72 h, cooled to room temperature and concentrated in vacuo to give a deep red residue. The residue is taken up in methanol/tetrahydro-furan (1:1), treated with about 2 mL of a Raney nickel slurry and hydrogenated at atmospheric pressure. The reaction is monitored by GC, TLC and H2 uptake. After 2 hours, the hydrogenation is continued at 20 psi-40 psi for a total hydrogenation time of 24 hours. The resultant reaction mixture is filtered through diatomaceous earth. The filtercake is washed with methylene chloride and the combined filtrate is washed sequentially with 1 N HCl and saturated NaHCO3, dried over MgSO4 and concentrated in vacuo to give a brown oil residue. The residue is crystallized in hexanes to give the title product as a brown solid, 22 g (72.6 % yield), identified by IR, 1HNMR, 13CNMR and mass spectral analyses.

reactant | 4-chloro-2-nitrotoluene | 0.2 mole, 34 g | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | dimethylformamide dimethyl acetal | 0.2 mole, 28 mL | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 0.3 mole, 25 mL | N1CCCC1 | C4H9N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methanol tetrahydro-furan | CO.O1CCCC1
catalyst | Raney nickel | about 2 mL | [Ni] | Ni
product | 6-Chloroindole | 72.6 % yield | ClC1=CC=C2C=CNC2=C1 | C8H6ClN
